US07960584B2
Step 2: (2,5-difluoro-4-methanesulfonylbenzyl)carbamic acid t-butyl ester
A dried 25 ml of two-neck round bottom flask was filled with argon gas. The solution of (4-amino-2,5-difluorobenzyl)-carbamic acid t-butyl ester (0.43 g, 1.66 mmol) in methylenechloride was put into the flask and then cooled to 0° C. To the solution were added methanesulfonylchloride (1.2 eq, 1.99 mmol, 0.16 ml) and pyridine (excess, 0.5 ml) slowly, the mixture solution was refluxed for 12 hours. After confirming the completion of the reaction with TLC, the reaction solution was acidified by 10% HCl, extracted with methylenechloride, washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was purified with column chromatography (n-hexane/ethyl acetate=2/1) to yield a white solid (0.41 g, 73.5%).

reactant | (4-amino-2,5-difluorobenzyl)-carbamic acid t-butyl ester | 1.66 mmol, 0.43 g | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)F)N)F)=O | C12H16F2N2O2
reactant | methanesulfonylchloride | 1.99 mmol, 0.16 ml, 1.2 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | (2,5-difluoro-4-methanesulfonylbenzyl)carbamic acid t-butyl ester | 0.41 g, 73.5% | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)F)S(=O)(=O)C)F)=O | C13H17F2NO4S
